US04086234
Substitution of an equivalent quantity of 2,2-diphenyl-5-chlorovaleronitrile for the 2,2-diphenyl-4-bromobutyronitrile, and 1,4-diazabicyclo[4.4.0]decane for the piperidine used in Example 22, and substantial repetition of the procedure detailed therein, affords 2,2-diphenyl-5-(1,4-diazabicyclo[4.4.0]dec-4-yl)valeronitrile dihydrochloride, melting at about 233° - 238° C. with decomposition.

reactant | 2,2-diphenyl-5-chlorovaleronitrile | C1(=CC=CC=C1)C(C#N)(CCCCl)C1=CC=CC=C1 | C17H16ClN
reactant | 2,2-diphenyl-4-bromobutyronitrile | C1(=CC=CC=C1)C(C#N)(CCBr)C1=CC=CC=C1 | C16H14BrN
reactant | 1,4-diazabicyclo[4.4.0]decane | N12CCNCC2CCCC1 | C8H16N2
reactant | piperidine | N1CCCCC1 | C5H11N
product | 2,2-diphenyl-5-(1,4-diazabicyclo[4.4.0]dec-4-yl)valeronitrile dihydrochloride | Cl.Cl.C1(=CC=CC=C1)C(C#N)(CCCN1CCN2CCCCC2C1)C1=CC=CC=C1 | InChI=1S/C25H31N3.2ClH/c26-21-25(22-10-3-1-4-11-22,23-12-5-2-6-13-23)15-9-16-27-18-19-28-17-8-7-14-24(28)20-27;;/h1-6,10-13,24H,7-9,14-20H2;2*1H
